US20010053779A1
A mixture comprising ethyl 2-(5-hydroxy-1H-benzoimidazol-2-yl)propionate (148 mg, 0.63 mmol), 4-amino-N-[2-(2-methoxyphenoxy)ethyl]-3-methylaminobenzamide (200 mg, 0.63 mmol) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone (0.5 mL) was stirred at room temperature until homogeneous, degassed under vacuum and concentrated by heating at 170° C. for 2 hours under a stream of N2. The residue was cooled to room temperature and rinsed with an excess of ethyl ether. The resulting amorphous material was taken up in 50% aqueous acetonitrile and purified by preparative reverse phase HPLC (2-50% CH3CN/H2O) to provide 2-[1-(5-hydroxy-1H-benzoimidazol-2-yl)ethyl]-N-[2-(2-methoxyphenoxy)ethyl]-3-methyl-3H-benzoimidazole-5-carboxamide (40 mg, 13% yield) as a light pink solid; MS (BioIon) C27H27N5O4 m/e calc 485.59; found 486.5 (MH+).

reactant | ethyl 2-(5-hydroxy-1H-benzoimidazol-2-yl)propionate | 0.63 mmol, 148 mg | OC1=CC2=C(NC(=N2)C(C(=O)OCC)C)C=C1 | C12H14N2O3
reactant | 4-amino-N-[2-(2-methoxyphenoxy)ethyl]-3-methylaminobenzamide | 0.63 mmol, 200 mg | NC1=C(C=C(C(=O)NCCOC2=C(C=CC=C2)OC)C=C1)NC | C17H21N3O3
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone | 0.5 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-[1-(5-hydroxy-1H-benzoimidazol-2-yl)ethyl]-N-[2-(2-methoxyphenoxy)ethyl]-3-methyl-3H-benzoimidazole-5-carboxamide | 40 mg, 13% yield | OC1=CC2=C(NC(=N2)C(C)C=2N(C3=C(N2)C=CC(=C3)C(=O)NCCOC3=C(C=CC=C3)OC)C)C=C1 | C27H27N5O4
